US05552437
5-Fluoro-3-[1-hydroxy-1-(thiazol-2-yl)prop yl](O-benzyl)phenol
A solution of 3-benzyloxy-1-bromo-5-fluorobenzene (EP: 0385662, ICI, Pharma) (5.4 g, 19.4 mmol) in dry THF (30 mL) containing magnesium (941 mg, 38.7 mmol) was heated until the Grignard reagent was formed then the reaction mixture was stirred at r.t. for 30 min. and transferred to a solution of 1-(thiazol-2-yl)propanone in dry THF at 0° C. The reaction mixture was stirred for 30 min. then an aqueous solution of NH4OAc (25%) was added and the THF evaporated. The residue was diluted with EtOAc and washed successively with H2O, brine, dried over MgSO4 and evaporated. The residue was purified by chromatography using hexane:EtOAc 9:1 to give 2.2 g, (50%) of the title product.

reactant | 3-benzyloxy-1-bromo-5-fluorobenzene | 19.4 mmol, 5.4 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)Br | C13H10BrFO
reactant | magnesium | 38.7 mmol, 941 mg | [Mg] | Mg
reactant | 1-(thiazol-2-yl)propanone | S1C(=NC=C1)CC(C)=O | C6H7NOS
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-[1-hydroxy-1-(thiazol-2-yl)prop yl](O-benzyl)phenol | 50% | FC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(CC)(C=1SC=CN1)O | C19H18FNO2S
